US04396704
5.35 g (0.22 mole) magnesium was added to 10 ml tetrahydrofuran and 0.35 ml CH3I under N2 and heated to initiate the Grignard reaction. A solution of 49.0 g (0.2 mole) p-bromophenyoxytrimethylsilane and 63 ml tetrahydrofuran was added over a 11/2 hour period. The reaction mixture was refluxed one additional hour and then cooled to room temperature. 22.8 g (0.21 mole) chlorotrimethylsilane was added to the reaction mixture. Once again the mixture was refluxed 1 hour and then cooled. 100 ml distilled water was slowly added, stirred, and separated. The organic phase was washed with two 50 ml portions of water and finally 50 ml of brine. The organic solution was dried over magnesium sulfate, filtered, and the solvent removed on a rotary evaporator under reduced pressure. Vacuum distillation gave 28.7 g of p-trimethylsilylphenoxytrimethylsilane, bp 132 degrees Celsius at 27 mm Hg.

reactant | magnesium | 0.22 mole, 5.35 g | [Mg] | Mg
reactant | CH3I | 0.35 ml | CI | CH3I
reactant | p-bromophenyoxytrimethylsilane | 0.2 mole, 49.0 g | BrC1=CC=C(C=C1)O[Si](C)(C)C | C9H13BrOSi
reactant | chlorotrimethylsilane | 0.21 mole, 22.8 g | Cl[Si](C)(C)C | C3H9ClSi
solvent | tetrahydrofuran | 63 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | p-trimethylsilylphenoxytrimethylsilane | 28.7 g | C[Si](C1=CC=C(O[Si](C)(C)C)C=C1)(C)C | C12H22OSi2
